data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[C:1]1(=[O:7])[CH:23]=[CH:15][C:21](=[N+:25]([O-:19])[O-:20])[CH:16]=[CH:24]1.[cH:2]1[cH:9][cH:3][c:4]2[c:10]([o+:5][c:8](-[c:18]3[cH:13][cH:11][cH:22][cH:12][cH:14]3)[cH:6][cH:17]2)[cH:26]1>>[c:1]1([O:7][CH:17]2[c:4]3[cH:3][cH:9][cH:2][cH:26][c:10]3[O:5][C:8]([c:18]3[cH:13][cH:11][cH:22][cH:12][cH:14]3)=[CH:6]2)[cH:23][cH:15][c:21]([N+:25](=[O:19])[O-:20])[cH:16][cH:24]1", "epd": [["LP-/Pi+", [19], [25, 19]], ["Pi-/Pi+", [21, 25], [15, 21]], ["Pi-/Pi+", [23, 15], [1, 23]], ["Pi-/Sigma+", [7, 1], [7, 17]], ["Pi-/Pi+", [17, 6], [6, 8]], ["Pi-/LP+", [8, 5], [5]]]}
{"reaction_name": "Enamine hydrolysis", "rsmi": "[C:1]([N:6]1[CH2:2][CH2:4][CH2:5][CH2:3]1)([CH3:8])=[CH2:9].[O:7]([H:10])[H:11]>>[C:1](=[O:7])([CH3:8])[CH2:9][H:11].[CH2:2]1[CH2:4][CH2:5][CH2:3][N:6]1[H:10]", "epd": [["LP-/Sigma+", [7], [1, 7]], ["Sigma-/LP+", [1, 6], [6]], ["LP-/Sigma+", [6], [6, 10]], ["Sigma-/LP+", [7, 10], [7]], ["LP-/Pi+", [7], [1, 7]], ["Pi-/LP+", [1, 9], [9]], ["LP-/Sigma+", [9], [9, 11]], ["Sigma-/LP+", [7, 11], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]([C:16](=[O:17])[c:20]1[cH:8][cH:32][c:19]([N:31]([CH3:21])[CH3:22])[cH:33][cH:9]1)=[S:34]([CH3:11])[CH3:12].[O:2]=[S:5](=[O:3])([C:7]([F:28])([F:29])[F:30])[c:25]1[cH:18][c:6]2[n+:10]([O-:4])[o:27][n:14][c:35]2[c:24]([N+:15]([O-:13])=[O:23])[cH:26]1>>[CH:1]([C:16](=[O:17])[c:20]1[cH:8][cH:32][c:19]([N:31]([CH3:21])[CH3:22])[cH:33][cH:9]1)([CH:18]1[c:6]2[n+:10]([O-:4])[o:27][n:14][c:35]2[C:24](=[N+:15]([O-:13])[O-:23])[CH:26]=[C:25]1[S:5](=[O:2])(=[O:3])[C:7]([F:28])([F:29])[F:30])[S+:34]([CH3:11])[CH3:12]", "epd": [["Pi-/Sigma+", [1, 34], [1, 18]], ["Pi-/Pi+", [18, 25], [25, 26]], ["Pi-/Pi+", [26, 24], [24, 15]], ["Pi-/LP+", [15, 23], [23]]]}
{"reaction_name": "Horner–Wadsworth–Emmons reaction", "rsmi": "[CH3:6][O:8][CH2:11][C:9](=[O:7])[H:10].[O:1]([P:5]([O:2][CH3:13])(=[O:3])[CH2-:4])[CH3:12]>>[CH2:4]=[C:9]([H:10])[CH2:11][O:8][CH3:6].[O:1]([P:5]([O:2][CH3:13])(=[O:3])[O-:7])[CH3:12]", "epd": [["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [7, 9], [7]], ["LP-/Sigma+", [7], [5, 7]], ["Sigma-/LP+", [4, 5], [4]], ["LP-/Pi+", [4], [4, 9]], ["Pi-/LP+", [7, 9], [7]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O:2]=[C:26]1[N:8]([CH3:23])[C:25](=[O:10])[N:9]([CH3:24])[C:27](=[O:3])[C:17]1=[CH:19][c:11]1[cH:28][cH:4][c:18]([O:15][CH3:12])[cH:5][cH:29]1.[c:1]1([O-:22])[cH:20][cH:6][c:14]([O:16][CH3:13])[cH:7][cH:21]1>>[c:1]1([O:22][CH:19]([c:11]2[cH:28][cH:4][c:18]([O:15][CH3:12])[cH:5][cH:29]2)[c:17]2[c:26]([O-:2])[n:8]([CH3:23])[c:25](=[O:10])[n:9]([CH3:24])[c:27]2=[O:3])[cH:20][cH:6][c:14]([O:16][CH3:13])[cH:7][cH:21]1", "epd": [["LP-/Sigma+", [22], [22, 19]], ["Pi-/Pi+", [19, 17], [17, 26]], ["Pi-/LP+", [26, 2], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:2][n+:14]1[o:38][n:24][c:18]2[c:20]3[n+:12]([O-:25])[o:5][n:28][c:23]3[c:26]([N+:11]([O-:29])=[O:39])[cH:19][c:42]12.[cH:1]1[c:7]([CH3:27])[s:40][c:6]([B-:8]2([c:41]3[cH:30][c:9]([C:3]([F:32])([F:33])[F:34])[cH:15][c:10]([C:4]([F:35])([F:36])[F:37])[cH:31]3)[O:21][CH2:16][CH2:17][O:22]2)[cH:13]1>>[C:3]([c:9]1[cH:15][c:10]([C:4]([F:35])([F:36])[F:37])[cH:31][c:41]([B-:8]2=[O+:21][CH2:16][CH2:17][O:22]2)[cH:30]1)([F:32])([F:33])[F:34].[cH:1]1[c:7]([CH3:27])[s:40][c:6]([CH:19]2[C:26](=[N+:11]([O-:29])[O-:39])[c:23]3[c:20]([n+:12]([O-:25])[o:5][n:28]3)-[c:18]3[n:24][o:38][n+:14]([O-:2])[c:42]32)[cH:13]1", "epd": [["LP-/Pi+", [21], [8, 21]], ["Sigma-/Sigma+", [6, 8], [6, 19]], ["Pi-/Pi+", [19, 26], [26, 11]], ["Pi-/LP+", [11, 39], [39]]]}
{"reaction_name": "Sakurai crotylation", "rsmi": "[CH2:1]([CH:9]=[CH:2][CH3:5])[Si:11]([CH3:6])([CH3:7])[CH3:8].[O:3]=[CH:10][CH3:4]>>[CH2:1]([CH:9]=[CH:2][CH3:5])[CH:10]([O-:3])[CH3:4].[CH3:6][Si+:11]([CH3:7])[CH3:8]", "epd": [["Sigma-/Sigma+", [1, 11], [1, 10]], ["Pi-/LP+", [3, 10], [3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:2]1([CH:14]=[N+:11]=[N-:23])[cH:9][cH:5][cH:15][cH:6][cH:10]1.[n:1]1[n:3][c:22]2[n:8]([cH:13][c:21]([N+:7](=[O:4])[O-:19])[cH:18][c:16]2[N+:17](=[O:12])[O-:24])[n:20]1>>[n:1]1[n:3][c:22]2[n:8]([n:20]1)[CH:13]([CH:14]([c:2]1[cH:9][cH:5][cH:15][cH:6][cH:10]1)[N+:11]#[N:23])[C:21](=[N+:7]([O-:4])[O-:19])[CH:18]=[C:16]2[N+:17](=[O:12])[O-:24]", "epd": [["LP-/Pi+", [23], [11, 23]], ["Pi-/Sigma+", [14, 11], [14, 13]], ["Pi-/Pi+", [13, 21], [21, 7]], ["Pi-/LP+", [7, 4], [4]]]}
